US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-methylaniline were reacted to yield N2,N4-bis(4-methylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.73 (d, 1H, J=4.2 Hz), 7.43 (d, 2H, J=8.1 Hz), 7.36 (d, 2H, J=8.4 Hz), 7.14 (d, 2H, J=8.4 Hz), 7.10 (d, 2H, J=8.1 Hz), 2.39 (s, 3H), 2.35 (s, 3H); LCMS: ret. time: 25.81 min.; purity: 99.65%; MS (m/e): 309 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-methylaniline | CC1=CC=C(N)C=C1 | C7H9N
product | N2,N4-bis(4-methylphenyl)-5-fluoro-2,4-pyrimidinediamine | CC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C)F | C18H17FN4
